US08232289B2
Preparation 21: Methyl 2-(4-formyl-3-methyl-pyrazol-1-yl)pyridine-3-carboxylate
A mixture of 3-methyl-1H-pyrazole-4-carbaldehyde (300 mg, 2.72 mmol), potassium carbonate (565 mg, 4.08 mmol), methyl 2-fluoropyridine-3-carboxylate (507 mg, 3.27 mmol) and dimethylformamide (2 mL) is stirred at 60° C. for 16 h. Water is added and the compound is extracted in ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate and solvent is evaporated. The crude mixture is purified by normal phase Isco chromatography using hexane:ethyl acetate, 2:1 as eluent to yield 422 mg of the title compound. MS (m/z): 246 (M+1).

reactant | 3-methyl-1H-pyrazole-4-carbaldehyde | 2.72 mmol, 300 mg | CC1=NNC=C1C=O | C5H6N2O
reactant | potassium carbonate | 4.08 mmol, 565 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-fluoropyridine-3-carboxylate | 3.27 mmol, 507 mg | FC1=NC=CC=C1C(=O)OC | C7H6FNO2
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Methyl 2-(4-formyl-3-methyl-pyrazol-1-yl)pyridine-3-carboxylate | 422 mg | C(=O)C=1C(=NN(C1)C1=NC=CC=C1C(=O)OC)C | C12H11N3O3
